US07091215B2
N-[7-(2,4-Dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]-N-(2-methoxyethyl)-N-propylamine
N-[7-(2,4-Dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]-N-(2-methoxyethyl)amine (14 mg) was dissolved in tetrahydrofuran (1 mL), and after adding propionaldehyde (0.016 mL) and 3 M aqueous sulfuric acid (0.77 mL), sodium borohydride (5.8 mg) was added in five portions while vigorously stirring on ice, and stirring was continued for 30 minutes. Water was added to the reaction mixture, extraction was performed with diethyl ether and the extract was washed with saturated aqueous sodium hydrogencarbonate and brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure and the residue was purified by preparative TLC [n-hexane:ethyl acetate (5:1), Rf=0.5] to obtain the title compound (9.5 mg) as a light yellow oil.

reactant | N-[7-(2,4-Dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]-N-(2-methoxyethyl)amine | 14 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2NCCOC)CC | C18H19Cl2N3O
reactant | propionaldehyde | 0.016 mL | C(CC)=O | C3H6O
reactant | sulfuric acid | 3 M, 0.77 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium borohydride | 5.8 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | N-[7-(2,4-Dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]-N-(2-methoxyethyl)-N-propylamine | 9.5 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2N(CCC)CCOC)CC | C21H25Cl2N3O
